US04888043
2-[1-(Ethoxyimino)propyl]-3-hydroxy-5-[3-methanesulfonamido-2,4,6-trimethylphenyl]cyclohex-2-en-1-one (1)
Sodium acetate (0.19 g, 2.29 mmol) and ethoxyamine hydrochloride (0.22 g, 2.29 mmol) were added to a solution of 2-propionyl-3-hydroxy-5-(3-methylsulphonamido-2,4,6-trimethylphenyl)cyclohex-2-en-1-one (0.58 g, 1.53 mmol) in ethanol (25 ml) and methylene chloride (25 ml). Stirring was continued at 20° for 18 hrs. The solvent was removed under reduced pressure and the residue partitioned between chloroform and water. The organic layer was washed with water, dried over anhydrous magnesium sulfate and concentrated under reduced pressure to yield2-[1-(ethoxyimino)propyl]-hydroxy-5-[3-(methylsulphonamido)-2,4,6-trimethylphenyl]cyclohex-2-en-1-one as a brown oil (0.27 g, 42%). The compound was characterized by proton magnetic resonance spectroscopy. The spectroscopic data are recorded in Table 2.

reactant | Sodium acetate | 2.29 mmol, 0.19 g | C(C)(=O)[O-].[Na+]
reactant | ethoxyamine hydrochloride | 2.29 mmol, 0.22 g | Cl.C(C)ON
reactant | 2-propionyl-3-hydroxy-5-(3-methylsulphonamido-2,4,6-trimethylphenyl)cyclohex-2-en-1-one | 1.53 mmol, 0.58 g | C(CC)(=O)C=1C(CC(CC1O)C1=C(C(=C(C=C1C)C)NS(=O)(=O)C)C)=O | C19H25NO5S
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | 2-[1-(Ethoxyimino)propyl]-3-hydroxy-5-[3-methanesulfonamido-2,4,6-trimethylphenyl]cyclohex-2-en-1-one | C(C)ON=C(CC)C=1C(CC(CC1O)C1=C(C(=C(C=C1C)C)NS(=O)(=O)C)C)=O | C21H30N2O5S
